US05723133
2-(2-guanidinoethoxy)ethyl benzoate
2.14 g (10.2 mmol) of 2-(2-aminoethoxy)ethyl benzoate and 0.624 g (10.4 mmol) of acetic acid were placed in a 50 ml two neck flask. While heating the flask in a 90° C. oil bath, 0.680 g (16.2 mmol) of cyanamide was added. After 6 hours of the reaction, the product was purified by a silica gel column chromatography (eluent, chloroform/ethanol=1/2 containing 0.5% acetic acid) to obtain 1.97 g of the title compound (wax-like, 6.33 mmol, 62.0% in yield) in the form of acetate. Results of the analysis of this compound are as follows.

reactant | 2-(2-aminoethoxy)ethyl benzoate | 10.2 mmol, 2.14 g | C(C1=CC=CC=C1)(=O)OCCOCCN | C11H15NO3
reactant | acetic acid | 10.4 mmol, 0.624 g | C(C)(=O)O | C2H4O2
reactant | cyanamide | 16.2 mmol, 0.680 g | N#CN | CH2N2
reactant | acetate | C(C)(=O)[O-]
product | 2-(2-guanidinoethoxy)ethyl benzoate | 6.33 mmol, 1.97 g, 62.0% | C(C1=CC=CC=C1)(=O)OCCOCCNC(=N)N | C12H17N3O3
